US05858995
A mixture of 5-amino-7-(2,6-dichlorobenzoylamino)-2,3-dimethylbenzo[b]furan hydrochloride (155 mg), triethylamine (61 mg) and trichloroacetyl isocyanate (115 mg) was stirred at ambient temperature for 1 hour. Then, the mixture was concentrated in vacuo and to the residue was added methanol (3 ml) and aqueous 1N-sodium hydroxide (2 ml). The mixture was stirred at 60° C. for 15 minutes and the methanol was evaporated in vacuo. The separated solid was collected, washed with water and dried to give 7-(2,6-dichlorobenzoylamino)-2,3-dimethyl-5-ureidobenzo[b]furan (130 mg).

reactant | 5-amino-7-(2,6-dichlorobenzoylamino)-2,3-dimethylbenzo[b]furan hydrochloride | 155 mg | Cl.NC1=CC2=C(OC(=C2C)C)C(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O
reactant | trichloroacetyl isocyanate | 115 mg | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | triethylamine | 61 mg | C(C)N(CC)CC | C6H15N
product | 7-(2,6-dichlorobenzoylamino)-2,3-dimethyl-5-ureidobenzo[b]furan | 130 mg | ClC1=C(C(=O)NC2=CC(=CC3=C2OC(=C3C)C)NC(=O)N)C(=CC=C1)Cl | C18H15Cl2N3O3
